US07652049B2
3-[3,5-bis(trifluoromethyl)benzyl]-5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one (racemic)
Following the procedure described in EXAMPLE 50, 43 mg of 5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one and 43 mg of 3,5-bis(trifluoromethyl)benzyl bromide gave the title compound. Mass spectrum (ESI) 606.1 (M+1). 1H NMR signals are doubled because of atropoisomerism. 1H NMR (500 MHz, CDCl3): δ 7.58-7.88 (m, 5H), 7.34 (d, J=8 Hz, 1H), 7.23 (m, 1H), 7.02, 6.79 (d, J=2 Hz, 1H), 6.88, 6.85 (d, J=8.5 Hz, 1H), 5.45, 5.42 (m, 1H), 4.52-4.64 (m, 1.5H), 4.36 (d, J=15.5 Hz, 0.5H), 3.74, 3.57 (s, 3H), 3.49, 3.34 (m, 1H), 3.09, 2.99 (t, J˜8.5 Hz, 1H), 2.89, 2.81 (septet, J=7 Hz, 1H), 1.24, 1.12 (m, 6H).

reactant | 5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one | 43 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)C1CNC(O1)=O)OC | C20H20F3NO3
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 43 mg | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
product | 3-[3,5-bis(trifluoromethyl)benzyl]-5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one | FC(C=1C=C(CN2C(OC(C2)C2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)=O)C=C(C1)C(F)(F)F)(F)F | C29H24F9NO3
